### PR TITLE
feat: simplest extension theorem part 3/4

### PR DESCRIPTION
**Pull request by vihdzp**
This was horrible to work through, and I still haven't even touched polynomials!

- [x] depends on #164

### CODE REVIEW

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 1]
```diff
@@ -432,11 +474,77 @@ theorem IsField.div_lt {x y z : Nimber} (h : IsField x) (hy : y < x) (hz : z < x
...
+    · rw [← toOrdinal.le_iff_le]
+      apply le_of_forall_ne
+      simp_rw [toOrdinal_one, add_one_eq_succ, toOrdinal_toNimber, Order.lt_succ_iff,
+        le_iff_eq_or_lt, forall_eq_or_imp, forall_lt_mul, ne_eq, ← toNimber_eq_iff]
+      refine ⟨?_, fun a ha b hb ↦ ?_⟩
+      · rw [h'.mul_eq_of_lt hy hyx.le hsy Hs', mul_right_inj' hx₀]
+        exact hsy.ne
+      · have hay : ∗a < y := ha.trans hsy
+        rw [← toNimber_lt_iff] at hb
+        refine ne_of_eq_of_ne ?_ (mul_ne_of_ne (a' := ∗b / (∗a + y)) (b' := ∗a) ?_ hay.ne)
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean]:
```suggestion
        refine ne_of_eq_of_ne ?_ (mul_ne_of_ne (a' := ∗b / (∗a + y)) ?_ hay.ne)
```

**Review by tristan-f-r — APPROVED** [review]
